Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
New headache, vomiting, blurry vision
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mrs. ___ is a ___ year old woman with a history of migraine 
who
presents for evaluation of an acute-onset headache, blurry
vision, nausea, and severe vomiting. Five weeks ago, she gave
birth to a healthy baby girl. There were no complications
associated with the pregnancy or birth and she has been managing
well with her daughter, who is her second child. 

History obtained by the patient. She reports that she was in her
usual state of health up until yesterday morning when she
suddenly developed some pain behind her right eye that was later
accompanied by blurry vision. She was not seeing double in that
eye and she is not sure if her blurry vision resolved with
closing either eye. This was soon accompanied by a dull headache
behind her right eye that later spread through the right side of
her neck and the top of her back to the left side of her head,
including the left back of her neck into her left posterior
orbit. She describes the pain as pressure-like without 
additional
throbbing qualities. There are no positional features and the
pain did not wake her up throughout the night. However she did
decide to present to the ED today for further evaluation, as she
endorses feeling a sensation of dysequilibrium on her feet, as 
if
she is "drunk" or standing on a boat. She says this is worse 
with
any movement (sitting up from standing, lying down from 
sitting),
even if she keeps her head straight and moves herself slowly. 
She
has been nauseous with this sensation and has vomited several
times, in fact endorsing that she has not been able to keep 
"much
of anything down" since yesterday. 

Although she has a history of migraine headaches, she says 
"there
is something very different" about these headaches, Her 
migraines
typically present with an aura of hand numbness and mouth
numbness and visual blurring without eye pain. She says it is
hard for her to speak during her severe migraine attacks. In
contrast, the headache she has on presentation "just feels 
dull."

She endorses phonophobia with some photophobia.  She has not had
any fevers nor has she had any rapid fluctuations in weight gain
(with exception of the pregnancy). She does endorse having some
pelvic and lower back pain during the pregnancy for which she
sought chiropractor help and has received several lower back and
neck manipulations. She reports that her  last neck manipulation
was ___ weeks ago. However, her most recent manipulation was on
___, two days prior to presentation, and the day before the
onset of her symptoms. This manipulation was primarily focused 
on
her lower and mid-back. She says she never felt immediate 
relieve
with these manipulations but she does think she felt a little
better a few days afterwards.

Review of systems otherwise unremarkable. She has no urinary
urgency.

 
Past Medical History:
No PMHx
Gave birth 5 weeks ago
 
Social History:
___
Family History:
Father died of MI at ___ 
Grandfather died of MI at young age
Mother and grandmother have type 2 diabetes
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General Exam: Resting comfortably, lights off in room
HEENT: no scleral icterus, no oral lesions, no temporal bruits
Resp: Breathing comfortably on room air
CV: well-perfused, no carotid bruits
Abd: soft nontender
Ext: non-edematous

Neurological exam:

MS: Oriented to self and situation. Language is fluent with
intact comprehension and expression. Speech is not dysarthric.
Repetition and recall is intact. ___ backwards is intact. Naming
of high and low frequency objects is intact. Mood is congruent. 

CN: left pupil 4>2, right 3>2; Right RAPD. red desaturation in
right eye. VFF to finger counting and finger follow. Right eye
acuity ___. Left eye acuity ___. Horizontal jerk nystagmus 
on
primary gaze. Non-extinguishable left beating nystagmus on right
lateral gaze. EOMI. HINTs negative (significant horizontal jerk
nystagmus on primary gaze without specific corrective saccade
with HINTs). ? Skew deviation with re-fixation correction with
cover/uncover. Multiple attempts on fundoscopic exam were not
successful. Fleeting glimpse of optic discs did not appear
swollen. Unable to evaluate vasculature for long enough period 
to
assess for venous pulsations.

Motor: Tone and bulk normal and symmetric. No adventitious
movements. Bilateral infraspinatus weakness (___). Otherwise 
full
strength throughout.

Reflexes: 3+ bilateral biceps, triceps, brachioradialis with
pectoralis jerk; no ___. 3+ patellar with
crossed-adduction. Achilles 1+ bilateral. Toes with flexor
response bilateral. 

Coordination: FNF intact bilateral. No significant dysmetria. 
HKS
intact bilateral.

Gait: Sway and two-step stumble backwards with Romberg, cannot
walk in tandem, sways to left.

DISCHARGE PHYSICAL EXAM:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
Able to read without difficulty. No diplopia with reading at 
near or far. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. 

-Cranial Nerves:
 II, III, IV, VI: PERRL 4 to 2mm and brisk. On left gaze, there 
was persistent right beating nystagmus. Very slightly 
disconjugate gaze with left eye exotropic. Cover uncover test 
showed a corrective saccade with right eye. Unable to get a view 
of optic discs bilaterally. 
 V: Facial sensation intact to light touch.
 VII: Slight left NLFF with symmetric activation. 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis 
noted.
 Delt Bic ___ WrE FFl FE IO IP Quad Ham TA ___
 L ___ 5 5
 R ___ 5 5

-Sensory: No deficits to light touch. Cortical sensory testing 
abnormal in bilateral palms (correctly named letter about 50% of 
the time bilaterally). 

-DTRs:
 ___ Pat Ach
 L ___ 2+ 2
 R ___ 2+ 2
No pec jerks. 
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

 
Pertinent Results:
Laboratory Data:
___ 04:56PM BLOOD WBC: 7.6 RBC: 4.25 Hgb: 13.1 Hct: 38.6 
MCV: 91 MCH: 30.8 MCHC: 33.9 RDW: 12.5 RDWSD: 41.___ 
___ 04:56PM BLOOD Neuts: 63.0 Lymphs: ___ Monos: 6.9 Eos: 
0.9* Baso: 0.3 Im ___: 0.3 AbsNeut: 4.77 AbsLymp: 2.16 AbsMono: 
0.52 AbsEos: 0.07 AbsBaso: 0.02 
___ 04:56PM BLOOD Plt Smr: NORMAL Plt Ct: 173 
___ 04:56PM BLOOD ___: 11.3 PTT: 27.7 ___: 1.0 
___ 04:56PM BLOOD Glucose: 66* UreaN: 11 Creat: 0.6 Na: 139 
K: 5.2 Cl: 104 HCO3: 18* AnGap: 17 
___ 04:56PM BLOOD ALT: 35 AST: 36 AlkPhos: 53 TotBili: 0.4 
___ 04:56PM BLOOD Calcium: 8.4 Phos: 3.5 Mg: 2.1 

Imaging:
Discussed with radiology
No dural venous sinus thrombosis
No acute stroke
No enhancing lesions

NONCONTRAST HEAD CT: 
No acute intracranial abnormality. 

CTA HEAD NECK: 
The circle of ___ and its principal branches, carotid and 
vertebral 
arteries are patent without evidence dissection or aneurysm 
formation. Dural 
venous sinuses are patent. 

 
Brief Hospital Course:
Patient requesting to leave against medical advice. 

Since this morning, she has had one episode of diplopia when 
reading a text message that transiently resolved. It hasn't 
occurred again. Her headaches are under control, as her nausea 
and vomiting and she wants to go home. 

Repeat neurological exam:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Language is fluent with intact repetition 
and comprehension. Normal prosody. There were no paraphasic 
errors. Pt was able to name both high and low frequency objects. 
 Able to read without difficulty. No diplopia with reading at 
near or far. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 4 to 2mm and brisk. On left gaze, there 
was persistent right beating nystagmus. Very slightly 
disconjugate gaze with left eye exotropic. Cover uncover test 
showed a corrective saccade with right eye. Unable to get a view 
of optic discs bilaterally. 
 V: Facial sensation intact to light touch.
 VII: Slight left NLFF with symmetric activation. 
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis 
noted.
   Delt Bic ___ WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch. Cortical sensory testing 
abnormal in bilateral palms (correctly named letter about 50% of 
the time bilaterally). 

-DTRs:
   ___ Pat Ach
 L  3  3    3    2+  2
 R  3  3    3    2+  2
No pec jerks. 
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

Laboratory Data:
___ 04:56PM BLOOD WBC: 7.6 RBC: 4.25 Hgb: 13.1 Hct: 38.6 
MCV: 91 MCH: 30.8 MCHC: 33.9 RDW: 12.5 RDWSD: 41.___ 
___ 04:56PM BLOOD Neuts: 63.0 Lymphs: ___ Monos: 6.9 Eos: 
0.9* Baso: 0.3 Im ___: 0.3 AbsNeut: 4.77 AbsLymp: 2.16 AbsMono: 
0.52 AbsEos: 0.07 AbsBaso: 0.02 
___ 04:56PM BLOOD Plt Smr: NORMAL Plt Ct: 173 
___ 04:56PM BLOOD ___: 11.3 PTT: 27.7 ___: 1.0 
___ 04:56PM BLOOD Glucose: 66* UreaN: 11 Creat: 0.6 Na: 139 
K: 5.2 Cl: 104 HCO3: 18* AnGap: 17 
___ 04:56PM BLOOD ALT: 35 AST: 36 AlkPhos: 53 TotBili: 0.4 
___ 04:56PM BLOOD Calcium: 8.4 Phos: 3.5 Mg: 2.1 

Imaging:
Discussed with radiology
No dural venous sinus thrombosis
No acute stroke
No enhancing lesions

NONCONTRAST HEAD CT: 
No acute intracranial abnormality. 
  
CTA HEAD NECK: 
The circle of ___ and its principal branches, carotid and 
vertebral 
arteries are patent without evidence dissection or aneurysm 
formation. Dural 
venous sinuses are patent. 

Assessment: 
___ is a ___ year old woman with PMHx of migraines 
who presented with blurry vision, dull headache and nausea & 
vomiting acute onset this morning. Her symptoms are currently 
resolved and she wants to go home. 
Her neurological exam has some abnormalities which are not well 
characterized at this time. She has slightly dysconjugate gaze, 
persistent left beating nystagmus and agraphesthesia. 
MRI does not show any ischemic infarct, signs of elevated 
pressure, enhancing lesions, and MPRAGE sequences show no signs 
of VST. CTA showed no dissection or aneurysm. 
Taken together, her headache, vision abnormalities, dysconjugate 
gaze and cortical sensory abnormalities are concerning for a 
VST. Preliminary discussion with radiology showed no VST, which 
is reassuring. However, as patient has not been seen by an 
attending physician and has neurologic deficits documented on 
multiple exams, recommended staying in the hospital overnight 
for further observation and evaluation. She discussed with her 
family, and opted to go home to her 5 week old baby. We 
recommended close follow up with neurology, and patient agrees. 
She also agreed she will come back to the hospital if any 
abnormalities are found on her MRI tomorrow, and if her symptoms 
worsen. 

Ms. ___ left AMA, prior to my seeing her and doing an 
examination. All contact information was given to her, should 
there be any worsening. She was intent on being home with her 
newborn baby. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
The patient was not discharged with any medications
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
unclear, AMA
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___ were admitted to the hospital because ___ had a headache, 
nausea, vomiting, and some visual abnormalities.
We looked at the vessels in your brain and didn't see a 
dissection or aneurysm. An MRI did not show a stroke, and we did 
not see signs of a venous clot. However, this has not been 
confirmed with an attending radiologist. 
___ wanted to leave the hospital to be with your daughter. 
Unfortunately, ___ left against our advice before being seen by 
an attending neurologist. 
___ should follow up with neurology as soon as possible for the 
abnormalities we found on your exam. If any of your symptoms 
come back, ___ should come back to the emergency room.

Sincerely, 
___ Neurology 
 
Followup Instructions:
___